US07074801B1
6-Bromo-4-[(3S,4S)-3,4-dimethoxytetrahydro-1H-1-pyrrolyl]quinoline
697 mg 6-bromo-4-chloroquinoline and 482 mg (3S,4S)-3,4-dimethoxytetrahydro-1H pyrrole monohydrochloride were reacted by the same method as in Production Example 82, to give 346 mg of the title compound as pale brown crystals.

reactant | 6-bromo-4-chloroquinoline | 697 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | (3S,4S)-3,4-dimethoxytetrahydro-1H pyrrole monohydrochloride | 482 mg | Cl.CO[C@H]1CNC[C@@H]1OC
product | 6-Bromo-4-[(3S,4S)-3,4-dimethoxytetrahydro-1H-1-pyrrolyl]quinoline | 346 mg | BrC=1C=C2C(=CC=NC2=CC1)N1C[C@@H]([C@H](C1)OC)OC | C15H17BrN2O2
